US07888519B2
Triphenylphosphine (0.4 mol) is suspended in acetonitrile and cooled to 10° C., and bromine (0.39 mol) is added at this temperature. The suspension is stirred for a further 1 hour, and propyldicyclohexylpropane-diol B3.7 (0.2 mol) is then added. The mixture is stirred overnight at room temperature and subsequently refluxed for 4 hours. After cooling to room temperature, water is added, and the mixture is extracted with petroleum ether. The organic phase is dried and evaporated, and the residue is filtered through silica gel. Evaporation gives propyldicyclohexylpropane dibromide B3.8. Yield: 94%.

reactant | Triphenylphosphine | 0.4 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 0.39 mol | BrBr | Br2
reactant | propyldicyclohexylpropane-diol | C(CC)C(C(C)(C1CCCCC1)C1CCCCC1)(O)O | C18H34O2
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | propyldicyclohexylpropane dibromide | Yield: 94% | [Br-].[Br-].C(CC)CC(C)(C1CCCCC1)C1CCCCC1 | InChI=1S/C18H34.2BrH/c1-3-4-15-18(2,16-11-7-5-8-12-16)17-13-9-6-10-14-17;;/h16-17H,3-15H2,1-2H3;2*1H/p-2
